US04634713
A mixture of 11.0 g of hydroquinone, 80 ml of isopropanol, 4.1 g of sodium hydroxide in 4.5 ml water, 9.9 g of cyclopropylmethyl chloride and 0.5 g of potassium iodide is stirred under reflux for 12 hours. The solvent is evaporated and the residue is extracted with ether. The ether extract is washed successively with water, sodium bicarbonate solution, dilute sodium bisulfite solution, water and sodium chloride solution and dried. The crude product obtained after evaporation of solvent is purified by preparative chromatography on silica gel, using first toluene and then toluene-ethyl acetate (90:5 to 85:15) as eluent to yield p-(cyclopropylmethoxy)-phenol, m.p. 49°-52°.

reactant | hydroquinone | 11.0 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | sodium hydroxide | 4.1 g | [OH-].[Na+]
reactant | cyclopropylmethyl chloride | 9.9 g | C1(CC1)CCl | C4H7Cl
reactant | potassium iodide | 0.5 g | [I-].[K+]
solvent | water | 4.5 ml | O | H2O
solvent | isopropanol | 80 ml | C(C)(C)O | C3H8O
product | p-(cyclopropylmethoxy)-phenol | C1(CC1)COC1=CC=C(C=C1)O | C10H12O2
